US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-{4-chloro-3-[(methylamino)carbonylamino]-phenyl}prop-2-enamide
(2E)-N-(3-Amino-4-chlorophenyl)-3-[4-(tert-butyl)phenyl]prop-2-enamide. To a round-bottomed flask equipped with a magnetic stir bar, was added (2E)-3-[4-(tert-butyl)phenyl]-N-(4-chloro-3-nitrophenyl)prop-2-enamide, Example 156, (250 mg, 0.69 mmol), EtOH (8 mL), indium (800 mg, 6.9 mmol, Aldrich) and satd NH4Cl (10 mL). The reaction mixture was stirred at reflux for 5 h. The solvents were removed in vacuo, the residue was dissolved in EtOAc (20 mL), washed with water (20 mL), dried over Na2SO4, filtered and concentrated in vacuo to yield the title product. MS (ESI, pos. ion) m/z: 329 (M+1).

reactant | (2E)-N-(3-Amino-4-chlorophenyl)-3-[4-(tert-butyl)phenyl]prop-2-enamide | NC=1C=C(C=CC1Cl)NC(\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C19H21ClN2O
reactant | (2E)-3-[4-(tert-butyl)phenyl]-N-(4-chloro-3-nitrophenyl)prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C19H19ClN2O3
reactant | EtOH | 0.69 mmol, 8 mL, 250 mg | CCO | C2H6O
reactant | indium | 6.9 mmol, 800 mg | [In] | In
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-{4-chloro-3-[(methylamino)carbonylamino]-phenyl}prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=C(C=C1)Cl)NC(=O)NC | C21H24ClN3O2
